US07071151B2
To a solution of linalool (1.74 g, 11.3 mmol) and triethylamine (2.30 g, 22.6 mmol) in anhydrous THF (150 mL) stirred for 5 min at 22° C. is added 3-(2,4-dihydroxyphenyl)-acrylic acid (2.04 g, 11.3 mmol). To this heterogeneous solution is added BOP Reagent (5.00 g, 11.3 mmol; Aldrich #22,608-4) in DMF (10 mL), and the subsequent homogeneous reaction mixture is stirred for 1 h. The reaction mixture is partitioned between ether (200 mL) and water (400 mL); the organic layer is removed and washed with ether (200 mL). The combined organic layers are washed sequentially with saturated sodium bicarbonate solution (200 mL) and brine (200 mL). The organic layer is dried over anhydrous magnesium sulfate, vacuum filtered and concentrated to give 3-(2,4-dihydroxyphenyl)-acrylic acid 1,5-dimethyl-1-vinyl-hex-4-enyl ester as an oil that is purified by flash chromatography.

reactant | linalool | 11.3 mmol, 1.74 g | C=CC(O)(C)CCC=C(C)C | C10H18O
reactant | triethylamine | 22.6 mmol, 2.30 g | C(C)N(CC)CC | C6H15N
reactant | 3-(2,4-dihydroxyphenyl)-acrylic acid | 11.3 mmol, 2.04 g | OC1=C(C=CC(=C1)O)C=CC(=O)O | C9H8O4
reactant | BOP Reagent | 11.3 mmol, 5.00 g | CN(C)[P+](N(C)C)(N(C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 3-(2,4-dihydroxyphenyl)-acrylic acid 1,5-dimethyl-1-vinyl-hex-4-enyl ester | CC(CCC=C(C)C)(C=C)OC(C=CC1=C(C=C(C=C1)O)O)=O | C19H24O4
